### ISSUE TITLE
New stack overflow on `simp`s dealing with `UInt64`

### ISSUE THREAD

**Issue by girving** [leanprover/lean4#3267]
### Prerequisites

* [x] Put an X between the brackets on this line if you have done all of the following:
    * Check that your issue is not already [filed](https://github.com/leanprover/lean4/issues).
    * Reduce the issue to a minimal, self-contained, reproducible test case. Avoid dependencies to mathlib4 or std4.

### Description

After updating to `leanprover/lean4:v4.6.0-rc1`, I get new crashes when using `simp`.  Here is a no-import example:

```
theorem UInt64.add_def (a b : UInt64) : a + b = ⟨a.val + b.val⟩ := rfl

theorem UInt64.toNat_add (m n : UInt64) : (m + n).toNat = (m.toNat + n.toNat) % UInt64.size := by
  simp only [UInt64.toNat, UInt64.add_def]
  simp only [HAdd.hAdd, Add.add, Fin.add, Nat.add_eq]
``` 

which if run in VSCode results in

```
Lean server printed an error: libc++abi: terminating due to uncaught exception of type lean::stack_space_exception: deep recursion was detected at 'replace' (potential solution: increase stack space in your system)
```

### Context

I got several of these crashes in my https://github.com/girving/ray repo after updating Lean and Mathlib (4 or 5 total), all in code proving things about `UInt64` or an `Int64` type built on top of `UInt64`.

[Zulip discussion](https://leanprover.zulipchat.com/#narrow/stream/270676-lean4/topic/Lots.20of.20crashes.20after.20updating.20to.20.60leanprover.2Flean4.3Av4.2E6.2E0.60/near/420069078)

### Steps to Reproduce

1. Try to build the example above.

**Expected behavior:** It builds.

**Actual behavior:** It crashes with a stack overflow.

### Versions

```
% lean --version
Lean (version 4.6.0-rc1, aarch64-apple-darwin, commit 5cc0c3f145ff, Release)
```

macOS 14.2.1

### Impact

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others are impacted by this issue, please ask them to add :+1: to it.

**Comment by fpvandoorn** [comment]
I also had this issue when updating to latest Lean/mathlib recently. The issue seems to be with having a looping set of simp-lemmas (in your example, `Nat.add_eq` conflicts with unfolding `HAdd`/`Add`).

**Comment by fpvandoorn** [comment]
It seems to be related to numerals. Here

**Comment by leodemoura** [comment]
Stack overflow does not happen anymore. The new error message is 
```
error: tactic 'simp' failed, nested error:
maximum recursion depth has been reached
use `set_option maxRecDepth <num>` to increase limit
use `set_option diagnostics true` to get diagnostic information
```
If we add `set_option diagnostics true`, Lean now produces information that is sufficient to diagnosing the loop.
I am marking it as closing soon.

**Comment by fpvandoorn** [comment]
Yes, the issue is solved on my side
